US08426420B2
ii) 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-ethoxy-propionyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 75 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 5 ml DMF were added 37 mg HOAt, 53 mg EDC, 0.13 ml DIPEA and 55 mg 4-((S)-2-Amino-3-ethoxy-propionyl)-piperazine-1-carboxylic acid butyl ester. After stirring for 12 h it was concentrated and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound. Yield: 86 mg MS (ES+): m/e=696.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 75 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HOAt | 37 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-((S)-2-Amino-3-ethoxy-propionyl)-piperazine-1-carboxylic acid butyl ester | 55 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](COCC)N)=O | C14H27N3O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EDC | 53 mg
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-3-ethoxy-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](COCC)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C35H49N7O8
